US07132421B2
To a solution of 1-(4-chloro-phenyl)-3-cyclopentyl-propane-1,2-diamine (170 mg, 0.672 mmol) and ethyl 2-ethoxy-4-methoxy-benzimidate hydrochloride (210 mg, 0.806 mmol) in ethanol (10 mL) was added triethylamine (82 μL, 0.806 mmol). The reaction mixture was heated at gentle reflux for 6 h. The solvent was removed and the residue was partitioned between water and methylene chloride. The product was extracted with methylene chloride (2×20 mL). The organic layers were washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was purified by flash chromatography (Biotage system, KP-Sil™ 32–63 μm, 60 Å silica gel) eluting with ethyl acetate then 5–10% methanol in ethyl acetate to give 5-(4-chloro-phenyl)-4-cyclopentylmethyl-2-(2-ethoxy-4-methoxy-phenyl)-4,5-dihydro-1H-imidazole (174 mg, 63%, 4.5:1.0 ratio of cis:trans) as a white foam. HR-MS (ES, m/z) observed 413.1993, calculated for C24H30N2O2Cl [(M+H)+] 413.1991.

reactant | 1-(4-chloro-phenyl)-3-cyclopentyl-propane-1,2-diamine | 0.672 mmol, 170 mg | ClC1=CC=C(C=C1)C(C(CC1CCCC1)N)N | C14H21ClN2
reactant | ethyl 2-ethoxy-4-methoxy-benzimidate hydrochloride | 0.806 mmol, 210 mg | Cl.C(C)OC1=C(C(OCC)=N)C=CC(=C1)OC
reactant | triethylamine | 0.806 mmol, 82 μL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 5-(4-chloro-phenyl)-4-cyclopentylmethyl-2-(2-ethoxy-4-methoxy-phenyl)-4,5-dihydro-1H-imidazole | 174 mg, 63% | ClC1=CC=C(C=C1)C1C(N=C(N1)C1=C(C=C(C=C1)OC)OCC)CC1CCCC1 | C24H29ClN2O2
